US08735387B2
(a) 2-(3-Methyl-benzoylamino)malonic acid diethyl ester
41.1 g of aminomalonic acid diethyl ester hydrochloride were dissolved in 200 ml of dichloromethane, and 80.7 ml of triethylamine were added with cooling in an ice bath. A solution of 30 g of 3-methyl-benzoyl chloride in 200 ml of dichloromethane was slowly added dropwise. After 2 h at 0° C., 100 ml of water were added dropwise. The phases were separated, and the aqueous phase was extracted with 100 ml of dichloromethane. The combined organic phases were dried with sodium sulfate, filtered and evaporated to give 54 g of the crude title compound.

reactant | aminomalonic acid diethyl ester hydrochloride | 41.1 g | Cl.C(C)OC(C(C(=O)OCC)N)=O
reactant | triethylamine | 80.7 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methyl-benzoyl chloride | 30 g | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(3-Methyl-benzoylamino)malonic acid diethyl ester | 54 g | C(C)OC(C(C(=O)OCC)NC(C1=CC(=CC=C1)C)=O)=O | C15H19NO5
